global 0
ahdl_include "C:\Users\wasso\Desktop\HiWi\Gitlab\auto-spice/deps/JART-memristor-models/JART_VCM_v1b.va"
ahdl_include "C:\Users\wasso\Desktop\HiWi\Gitlab\auto-spice/deps/transistor-models/90nm_bulk.pm"
simulatorOptions options vabstol=1e-6 iabstol=1e-12 temp=27 tnom=27 gmin=1e-12
trans tran stop=7000n errpreset=conservative maxstep =10n
saveOptions options save=all currents=all
save SINGLE.I0:OE SINGLE.I0:AE
parameters Read_V = 0.5 Set_V = -1.078 Reset_V = 0.75
parameters T0 = 0.293 eps = 17 epsphib = 5.5 phiBn0 = 0.18 phin = 0.1 \
	un = 4e-06 Ndiscmax = 20 Ndiscmin = 0.008 Ninit = 0.008 Nplug = 20 \
	a = 2.5e-10 ny0 = 20000000000000.0 dWa = 1.35 Rth0 = 10000000.0 rdet = 4.5e-08 \
	lcell = 3 ldet = 0.4 Rtheff_scaling = 0.27 RseriesTiOx = 650 R0 = 719.244 \
	Rthline = 90471.5 alphaline = 0.00392 

subckt 1T1M_ckt MemInput Output TransGate inh_bulk_n
	M0 (net03 MemInput) JART_VCM_1b_det	T0 = 0.293 eps = 17 epsphib = 5.5 phiBn0 = 0.18 phin = 0.1 \
	un = 4e-06 Ndiscmax = 20 Ndiscmin = 0.008 Ninit = 0.008 Nplug = 20 \
	a = 2.5e-10 ny0 = 20000000000000.0 dWa = 1.35 Rth0 = 10000000.0 rdet = 4.5e-08 \
	lcell = 3 ldet = 0.4 Rtheff_scaling = 0.27 RseriesTiOx = 650 R0 = 719.244 \
	Rthline = 90471.5 alphaline = 0.00392 
	T0 (net03 TransGate Output inh_bulk_n) nmos
ends 1T1M_ckt

V0 (r0 0) vsource type=pwl wave=[\
0n	0	\
999n	0	\
1000n	Read_V	\
1999n	Read_V	\
2000n	0	\
2999n	0	\
3000n	Set_V	\
3999n	Set_V	\
4000n	0	\
4999n	0	\
5000n	Read_V	\
5999n	Read_V	\
6000n	0	\
6999n	0	\
7000n	Reset_V	\
7999n	Reset_V	\
8000n	0	\
8999n	0	\
9000n	Read_V	\
9999n	Read_V	\
10000n	0	\
10999n	0	\
]
V1 (c0  0) vsource dc=0

